US07378404B2
8β-(2,2-difluorovinyl)-estra-1,3,5(10),9(11)-tetraene-3,17β-diol (11b)
105 mg of 8β-(2,2-difluorovinyl)-3-methoxy-17β-(tetrahydropyran-2-yloxy)-estra-1,3,5(10),9(11)-tetraene was reacted according to general operating instructions 19 for ether cleavage with DIBAH/acid. The yield of colorless crystals with a melting point of 103-106° C. was 75 mg (93%).

reactant | 8β-(2,2-difluorovinyl)-3-methoxy-17β-(tetrahydropyran-2-yloxy)-estra-1,3,5(10),9(11)-tetraene | 105 mg | FC(=C[C@@]12[C@@H]3CC[C@@H]([C@@]3(C)CC=C2C=2C=CC(=CC2CC1)OC)OC1OCCCC1)F | C26H32F2O3
reactant | DIBAH | CC(C)C[AlH]CC(C)C
solvent | ether | CCOCC | C4H10O
product | 8β-(2,2-difluorovinyl)-estra-1,3,5(10),9(11)-tetraene-3,17β-diol | FC(=C[C@@]12[C@@H]3CC[C@@H]([C@@]3(C)CC=C2C=2C=CC(=CC2CC1)O)O)F | C20H22F2O2
